US04737511
3-Ethyl-1,5-dihydro-4-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-2H-pyrrol-2-one
4-[3-Amino-4-(2-methyl-1H-imidazol-1-yl)phenyl]-3-ethyl-1,5-dihydro-2H-pyrrol-2-one (2.0 g, 7.1 mmol) is dissolved in concentrated HCl (40 mL) at 5° C, and hypophosphorous acid (50% aqueous solution, 14.6 mL, 0.14 mol) is added dropwise. Aqueous sodium nitrite (2 N, 4.4 mL, 8.8 mmol) is added, and the mixture is stirred for 5 minutes. A trace amount of copper (I) oxide is added, and the mixture is stirred an additional 1 hr at 5° C. The mixture is neutralized with sodium carbonate, extracted with n-butanol, and the extracts are evaporated. The residue is triturated with methanol, filtered, and the filtrates are evaporated. Chromatography of the residue on silica gel followed by recrystallization from ethanol and drying under vacuum at 70° C. for 18 hr provides the title compound.

reactant | 4-[3-Amino-4-(2-methyl-1H-imidazol-1-yl)phenyl]-3-ethyl-1,5-dihydro-2H-pyrrol-2-one | 7.1 mmol, 2.0 g | NC=1C=C(C=CC1N1C(=NC=C1)C)C1=C(C(NC1)=O)CC | C16H18N4O
reactant | hypophosphorous acid | 0.14 mol, 14.6 mL | [PH2](=O)O | H3O2P
reactant | sodium nitrite | 8.8 mmol, 2 N, 4.4 mL | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | HCl | 40 mL | Cl | ClH
catalyst | copper (I) oxide | [Cu-]=O
product | 3-Ethyl-1,5-dihydro-4-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-2H-pyrrol-2-one | C(C)C=1C(NCC1C1=CC=C(C=C1)N1C(=NC=C1)C)=O | C16H17N3O
